US05234936
The preparation of 5,6,7,8-tetrahydro-N-[[2'-(1H-tetrazol-5-yl)[1.1'-biphenyl]-4-yl]methyl]-2-methyl-4-quinazolinamine
To 10 mL of dimethylformamide were added 0.57 g of 4-chloro-5,6,7,8-tetrahydro-2-methylquinazoline, 0.45 g of N-[[2'-(1H-tetrazol-5-yl)[1,1'-biphenyl]-4-yl]methyl]amine hydrochloride and 1.30 g of anhydrous potassium carbonate. The resulting mixture was heated at 95° C. for 5 days and then cooled to room temperature. The resulting mixture was run through a silica plug (methanol/chloroform/ammonia eluant) and after all solvent was removed by evaporation the resulting residue was purified on silica to yield 0.19 g (31%) of the desired product. The compound was characterized as its potassium salt: 1H NMR (DMSO-d6, 400 MHz) δ 7.50 (m, 1H), 7.32 (m, 3H), 7.11 (d, J=8.2 HZ, 2H), 7.02 (m, 3H), 4.57 (d, J=6.0 Hz, 2H), 2.48 (m, 4H);, 2.24 (s, 3H), 1.71 (m, 4H); negative FAB-MS m/e 433(M-H); 396(M-K). Anal. calcd for C23H22KN7.0.85H2O: C, 61.53; H, 5.30; N, 21.84. Found: C, 61.74; H, 5.25; N, 21.47.

reactant | 4-chloro-5,6,7,8-tetrahydro-2-methylquinazoline | 0.57 g | ClC1=NC(=NC=2CCCCC12)C | C9H11ClN2
reactant | N-[[2'-(1H-tetrazol-5-yl)[1,1'-biphenyl]-4-yl]methyl]amine hydrochloride | 0.45 g | Cl.N1N=NN=C1C1=C(C=CC=C1)C1=CC=C(C=C1)CN
reactant | potassium carbonate | 1.30 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 5,6,7,8-tetrahydro-N-[[2'-(1H-tetrazol-5-yl)[1.1'-biphenyl]-4-yl]methyl]-2-methyl-4-quinazolinamine | 0.19 g, 31% | N1N=NN=C1C1=C(C=CC=C1)C1=CC=C(C=C1)CNC1=NC(=NC=2CCCCC12)C | C23H23N7
